US07582769B2
{2-[3-Cyclohexyl-3-(1-dimethylcarbamoyl-piperidin-4-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
{2-[3-Cyclohexyl-3-piperidin-4-yl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester was pre-pared in a similar manner to the synthesis of example 12 from N-Boc piperidone, cyclohexyl-amine and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester, Boc deprotection, reaction with dimethylcarbamoyl chloride and hydrolysis of the ester moiety as described in general procedure (I) gave the title compound.

reactant | {2-[3-Cyclohexyl-3-piperidin-4-yl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1CCNCC1)C1CCCCC1)=O | C19H30N4O3S2
reactant | N-Boc piperidone | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | cyclohexyl-amine | C1(CCCCC1)N | C6H13N
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | {2-[3-Cyclohexyl-3-(1-dimethylcarbamoyl-piperidin-4-yl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCN(CC1)C(N(C)C)=O | C20H31N5O4S2
